US06566377B2
4-(4-Methoxy-phenyl)-isoxazole
A round-bottomed flask was charged with potassium carbonate (1.45 g, 10.5 mmol) and ethanol (14 ml). To this mixture was added hydroxylamine hydrochloride (730 mg, 10.5 mmol), and 2-(4-methoxyphenyl)-malondialdehyde (1.25 g, 7.00 mmol). The reaction mixture was heated at about 80° C. for about three hours. The reaction mixture was then concentrated in vacuo to approximately one-quarter volume and partitioned between water and ethyl acetate. The mixture was extracted with ethyl acetate and the combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo to a dark oil. This crude material was purified by column chromatography (10% ethyl acetate/hexanes) to afford 1.06 g (86% yield) of the desired product. LRMS ([M−H]−)=174.1.

reactant | potassium carbonate | 10.5 mmol, 1.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine hydrochloride | 10.5 mmol, 730 mg | Cl.NO
reactant | 2-(4-methoxyphenyl)-malondialdehyde | 7.00 mmol, 1.25 g | COC1=CC=C(C=C1)/C(=C/O)/C=O | C10H10O3
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | 4-(4-Methoxy-phenyl)-isoxazole | 1.06 g, 86% yield | COC1=CC=C(C=C1)C=1C=NOC1 | C10H9NO2
